US05633379
895 mg (2.73 mmol) of 7-chloro-4-hydroxy-3-(3-methoxycarbonylpropylthio)-2(1H)-quinolone are dissolved in 10 ml of 2N sodium hydroxide solution and the resulting solution is stirred for one hour at room temperature. The reaction mixture is adjusted to pH 2 with concentrated hydrochloric acid and the resulting white suspension is filtered and washed with water. The resulting colourless crystals are dried under a high vacuum at 70°, yielding 3-(3-carboxypropylthio)-7-chloro-4-hydroxy-2(1H)-quinolone in the form of colourless crystals having a melting point of 239°-241° (decomp.).

reactant | 7-chloro-4-hydroxy-3-(3-methoxycarbonylpropylthio)-2(1H)-quinolone | 2.73 mmol, 895 mg | ClC1=CC=C2C(=C(C(NC2=C1)=O)SCCCC(=O)OC)O | C14H14ClNO4S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
product | 3-(3-carboxypropylthio)-7-chloro-4-hydroxy-2(1H)-quinolone | C(=O)(O)CCCSC=1C(NC2=CC(=CC=C2C1O)Cl)=O | C13H12ClNO4S
